data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][O:21]CC.CC(=O)C(C1=CC=CC=C1)C(C)(CC2=CC=CC=C2)[O-:10]>>[H:20][O:10]C(C)(CC1=CC=CC=C1)C(C2=CC=CC=C2)C(=O)C.CC[O-:21] 10=20;20,21=21
CC(=O)OC1=C2C3=C(CC4C5(C3(CC[N:10]4CC6CC6)C(O2)C(=O)CC5)O)C=C1.[CH3:20][Br:21]>>CC(=O)OC1=C2C3=C(CC4C5(C3(CC[N+:10]4([CH3:20])CC6CC6)C(O2)C(=O)CC5)O)C=C1.[Br-:21] 10=20;20,21=21
CC1(C(=O)CC[C:20]1=[O:21])CC[C:11](=[CH2:10])[N:12]2CCCC2C(=O)[O-].C1CC([NH2+]C1)C(=O)[O-].[OH3+].O>>CC12CC[C:11](=[N+:12]3CCCC3C(=O)[O-])[CH2:10][C:20]1(CCC2=O)[O-:21].C1CC([NH2+]C1)C(=O)[O-].[OH3+].O 10,11=10,20;20,21=21;12=11
CC(C)C(=[C:11]=[CH2:10])[Si](C)(C)C.C1=CC=C(C=C1)CC[CH:20]=[O+:21][Ti-](Cl)(Cl)(Cl)Cl>>CC(C)C(=[C+:11][CH2:10][CH:20](CCC1=CC=CC=C1)[O:21][Ti-](Cl)(Cl)(Cl)Cl)[Si](C)(C)C 10,11=10,20;20,21=21
C[CH:20]=[CH:21][C:22](=[O:23])O[Na].O[O-:10]>>C[CH:20]([CH:21]=[C:22]([O-:23])O[Na])[O:10]O 10=20;22,23=23;20,21=21,22
[H:20][O+:21]=C(CCOCC)OC.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CCOCCC(=[O:21])OC 10=20;20,21=21
[Li:20]SC(C)(C)C.COC(=[O:10])C=CCBr>>[Li-:20]([O+:10]=C(C=CCBr)OC)SC(C)(C)C 10=20,
C(C[CH:20]=[O:21])C[O-:10]>>C1C[CH:20]([O:10]C1)[O-:21] 10=20;20,21=21
C[O:10]C1=C2C(=CC=C1)C3=CC=CC=C3N2C([CH2:20][O:21]S(=O)(=O)C(F)(F)F)C4=CC=CC=C4.C1=CC=[NH+]C=C1.C(F)(F)(F)S(=O)(=O)[O-]>>C[O+:10]1[CH2:20]C(N2C3=CC=CC=C3C4=CC=CC1=C42)C5=CC=CC=C5.C(F)(F)(F)S(=O)(=O)[O-:21].C1=CC=[NH+]C=C1.C(F)(F)(F)S(=O)(=O)[O-] 10=20;20,21=21
C[C:20](C)([OH:10])[OH+:21]C1=CC=CC=C1.OS(=O)(=O)[O-]>>C[C:20](=[OH+:10])C.C1=CC=C(C=C1)[OH:21].OS(=O)(=O)[O-] 10=20;20,21=21
CCC(C)C(C(=O)NC1CCCC1)[NH2+:21][C:20](=O)[O-:10].C[C+](C)C.C(=O)(C(F)(F)F)[O-].[Cl-]>>CCC(C)C(C(=O)NC1CCCC1)[NH2:21].[C:20](=O)=[O:10].C[C+](C)C.C(=O)(C(F)(F)F)[O-].[Cl-] 10=20;20,21=21
C[C:20](C#N)([OH:10])[Cl:21]>>C[C:20](=[OH+:10])C#N.[Cl-:21] 10=20;20,21=21
[H:20][CH:21](C)[CH:22]=[O:23].[OH-:10]>>[H:20][OH:10].C[CH:21]=[CH:22][O-:23] 10=20;22,23=23;20,21=21,22
[H:20][O+:21](C(C)C1=C(C=C(C=C1)C)CC)P(CC)(CCC)(CCCCC)SC2=NC3=C(S2)C(=CC=C3C)CC.CCC1=C2C(=C(C=C1)C)N=C(S2)[S-:10]>>[H:20][S:10]C1=NC2=C(C=CC(=C2S1)CC)C.CCCCCP(CC)(CCC)([O:21]C(C)C1=C(C=C(C=C1)C)CC)SC2=NC3=C(S2)C(=CC=C3C)CC 10=20;20,21=21
C1=CC=C(C=C1)COC2=CC=C(C=C2)CC(C(=O)NCC(=O)O)[NH2+:21][C:20](=O)[O-:10].C[C+](C)C.C(=O)(C(F)(F)F)[O-].[Cl-]>>C1=CC=C(C=C1)COC2=CC=C(C=C2)CC(C(=O)NCC(=O)O)[NH2:21].[C:20](=O)=[O:10].C[C+](C)C.C(=O)(C(F)(F)F)[O-].[Cl-] 10=20;20,21=21
[H:20][C:21]1(C=C(C=C[C+:22]1NC(=O)CC)Br)Br.[Fe-]([Br:10])(Br)(Br)Br>>[H:20][Br+:10][Fe-](Br)(Br)Br.CCC(=O)N[C:22]1=[C:21](C=C(C=C1)Br)Br 10=20;20,21=21,22
[H:20][O:21]CC.CC(C1CCCC1=O)[O-:10]>>[H:20][O:10]C(C)C1CCCC1=O.CC[O-:21] 10=20;20,21=21
C[C:20](=[S+:21]CCS)C.[OH2:10]>>C[C:20](C)([OH2+:10])[S:21]CCS 10=20;20,21=21
C[CH:10]=[C:11](C)[O-:12].CC(C)[CH2:20][Br:21]>>CC(C)[CH2:20][CH:10](C)[C:11](=[O:12])C.[Br-:21] 10,11=10,20;20,21=21;12=11
C1CC12[CH+:20]C3CC2C4=C3C=CC=C4.[OH2:10]>>C1CC12C3CC([CH:20]2[OH2+:10])C4=C3C=CC=C4 10=20,
CC(C)CC(C(=O)NC1CCCC1)N[C:20](=[OH+:21])[O:10][C:11](C)(C)C.C(=O)(C(F)(F)F)[O-].[Cl-]>>CC(C)CC(C(=O)NC1CCCC1)N[C:20](=[O:10])[OH:21].C[C+:11](C)C.C(=O)(C(F)(F)F)[O-].[Cl-] 10,11=10,20;20,21=21
C[Si](C)(C)C[CH:11]=[CH2:10].C1CC[N+:21](=[CH:20]C2=CC=CC=C2)CC1>>C[Si](C)(C)C[CH+:11][CH2:10][CH:20](C1=CC=CC=C1)[N:21]2CCCCC2 10,11=10,20;20,21=21
CCCC[O:21][C:20](CC(C)C)(C1=CC=CC=C1)[O-:10].[Li+]>>CCCC[O-:21].CC(C)C[C:20](=[O:10])C1=CC=CC=C1.[Li+] 10=20;20,21=21
CC[OH:10].CC(=O)O[C:20](=[OH+:21])CCC=O>>CC[OH+:10][C:20](CCC=O)([OH:21])OC(=O)C 10=20;20,21=21
C[C+:20]=O.C1=CC2=CC=C(C=C2[CH:10]=[CH:11]1)S(=O)(=O)O>>C[C:20](=O)[CH:10]1[CH+:11]C=CC2=CC=C(C=C12)S(=O)(=O)O 10,11=10,20
CC[CH:20](C)[Br:21].C[C:11](=[CH:10]C(=O)OC)[O-:12]>>CC[CH:20](C)[CH:10]([C:11](=[O:12])C)C(=O)OC.[Br-:21] 10,11=10,20;20,21=21;12=11
CCC1=C(C=CC=C1)[P:10](C2=CC=CC=C2)C3=CC=CC=C3.CCOC(=O)[N:20]=[N:21]C(=O)OCC.CC(C)CCCCC(C(C(=O)O)OC1=CC=CC=C1)O>>CCC1=C(C=CC=C1)[P+:10](C2=CC=CC=C2)(C3=CC=CC=C3)[N:20](C(=O)OCC)[N-:21]C(=O)OCC.CC(C)CCCCC(C(C(=O)O)OC1=CC=CC=C1)O 10=20;20,21=21
C1CN(CCC1C(=CC(C2=CC=NC=C2)[C:20](=[O:21])C3=CC=C(C=C3)F)[NH2:10])C(=O)OCC4=CC=CC=C4.CC(=O)O.O>>C1CN(CCC1C2=CC([C:20]([NH2+:10]2)(C3=CC=C(C=C3)F)[O-:21])C4=CC=NC=C4)C(=O)OCC5=CC=CC=C5.CC(=O)O.O 10=20;20,21=21
[H:20][O:21]C=O.CC(CC=C)(C(C)(CC=C)O)[OH:10]>>[H:20][OH+:10]C(C)(CC=C)C(C)(CC=C)O.C(=O)[O-:21] 10=20;20,21=21
[H:20][CH:21](C=O)[CH+:22]CC.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC[CH:22]=[CH:21]C=O 10=20;20,21=21,22
[Li:11][CH:10]1CCC[O:21][CH:20]1C#CCCCCCC.CCC(C)I>>[Li+:11].CCCCCCC#C[CH:20]=[CH:10]CCC[O-:21].CCC(C)I 10,11=10,20;20,21=21
[H:20][OH+:21]C(C=C)(O)Cl.[OH2:10]>>C=CC(O)([OH:21])Cl.[H:20][OH2+:10] 10=20;20,21=21
CC1=CC2=C(O1)CC([C:21](=[N+:20]=[N-:10])[C:22]2=[O:23])(C)C.CC1=CC(=NC(=C1)C)C.C1=CC=C(C=C1)CO>>CC1=CC2=C(O1)CC([C:21](=[C:22]2[O-:23])[N+:20]#[N:10])(C)C.CC1=CC(=NC(=C1)C)C.C1=CC=C(C=C1)CO 10=20;22,23=23;20,21=21,22
C[C:20](=[O:21])CCC=O.[OH-:10]>>C[C:20](CCC=O)([OH:10])[O-:21] 10=20;20,21=21
